US08202885B2
To a mixture of crude [3-(2-amino-4,5-dimethoxy-phenylcarbamoyl)-propyl]-methyl-carbamic acid benzyl ester acid (obtained from 4-(methylamino)butyric acid and benzylchloroformate) in 6 mL toluene were added a few drops of DMF and 358 mg of TsOH and the reaction mixture was heated at 150° C. for 2 h in the microwave. Saturated aq. NaHCO3 solution was added, the phases were separated and the organic phase was washed with brine. The combined organic phases were dried over MgSO4, and concentrated in vacuo. Purification by CC EtOAc-MeOH (95:5) yielded 0.65 g of [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-carbamic acid benzyl ester as brown oil.

reactant | [3-(2-amino-4,5-dimethoxy-phenylcarbamoyl)-propyl]-methyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C)CCCC(NC1=C(C=C(C(=C1)OC)OC)N)=O)=O | C21H27N3O5
reactant | TsOH | 358 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-carbamic acid benzyl ester | 0.65 g | C(C1=CC=CC=C1)OC(N(C)CCCC1=NC2=C(N1)C=C(C(=C2)OC)OC)=O | C21H25N3O4
